US08022205B2
In the same manner as Example 1-D-01, using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (40 mg) and 2-methoxy-ethyl chloroformate (0.021 ml) instead of acetic anhydride, a colorless oily crude product (60 mg) of 4-(2-bis-(4-methoxy-benzyl)-amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid 2-methoxy-ethyl ester was obtained. The obtained colorless oily crude product (60 mg) of 4-(2-bis-(4-methoxy-benzyl)-amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid 2-methoxy-ethyl ester was subjected to deprotection reaction according to the above deprotection reaction method 2, to obtain 4-(2-amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid 2-methoxy-ethyl ester as a colorless solid (21 mg, 72%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 40 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 2-methoxy-ethyl chloroformate | 0.021 ml | ClC(=O)OCCOC | C4H7ClO3
product | 4-(2-amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid 2-methoxy-ethyl ester | 21 mg, 72% | COCCOC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2 | C18H23N7O4
